US08664228B2
Step 3: 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {2-(2,4-dimethoxy-benzylamino)-5-[4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentyl}-amide
To a solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid (161 mg, 0.86 mmol) and HATU (325 mg, 0.86 mmol) in DMF (10 mL) is added N-methylmorpholine (0.38 mL, 3.42 mmol) followed by N*2*-(2,4-dimethoxy-benzyl)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentane-1,2-diamine (391 mg, 0.86 mmol) and the mixture is stirred at RT overnight. The solvent is removed in vacuo. To the crude residue is added water (10 mL), which is then decanted off to leave an orange solid that is washed with diethyl ether (10 mL) and dried in vacuo at 50° C. to afford the title compound. [M+H]+ 629.

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid | 0.86 mmol, 161 mg | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
reactant | HATU | 0.86 mmol, 325 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 3.42 mmol, 0.38 mL | CN1CCOCC1 | C5H11NO
reactant | N*2*-(2,4-dimethoxy-benzyl)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentane-1,2-diamine | 0.86 mmol, 391 mg | COC1=C(CNC(CN)CCCC2=CC=C(C=C2)OC[C@H]2OC(OC2)(C)C)C=CC(=C1)OC | C26H38N2O5
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid {2-(2,4-dimethoxy-benzylamino)-5-[4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentyl}-amide | COC1=C(CNC(CNC(=O)C2=NC(=C(N=C2N)N)Cl)CCCC2=CC=C(C=C2)OC[C@@H]2OC(OC2)(C)C)C=CC(=C1)OC | C31H41ClN6O6
